US05556836
Boc-Lys(Z)-Thr-OMe
1.14 g (3 mmol) of Boc-Lys(Z)-OH, 0.51 g (3 mmol) of H-Thr-OMe.HCl, 0.68 g of (3.6 mmol) of EDCI, 0.58 g (3.6 mmol) of HOBT and 0.66 ml (6 mmol) of NMM are dissolved at -10° C. in 10 ml THF and stirred at room temperature for 15 hours. The THF is distilled off under vacuum, the residue dissolved in 50 ml ethyl acetate and the organic phase washed three times with 10 ml 0.5 N HCl, 10% NaHCO3 solution and water respectively. The organic phase is dried with MgSO4 and the solvent distilled off under vacuum. 1.36 g (92%) of thin-layer chromatographically identical Boc-Lys(Z)-Thr-OMe are obtained as a colourless foam.

reactant | Boc-Lys(Z)-OH | 3 mmol, 1.14 g | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C19H28N2O6
reactant | H-Thr-OMe.HCl | 3 mmol, 0.51 g | N[C@@H]([C@H](O)C)C(=O)OC.Cl
reactant | EDCI | 3.6 mmol, 0.68 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 3.6 mmol, 0.58 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 6 mmol, 0.66 ml | CN1CCOCC1 | C5H11NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Boc-Lys(Z)-Thr-OMe | 1.36 g, 92% | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)OC)C(=O)OC(C)(C)C | C24H37N3O8
